US04997836
To a mixture of 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylic acid (3.0 g), N-hydroxysuccinimide (1.2 g) and dioxane (30 ml) is added, at room temperature, dicyclohexyl carbodiimide (2.6 g). The mixture is stirred for 5 hours. To a mixture of dimethylamine hydrochloride (8.0 g), triethylamine (10.0g) and dioxane (30 ml) is added dropwise at 0° C the solution of active ester prepared above. The reaction mixture is concentrated, and the concentrate is dissolved in dichloromethane. The solution is washed with a 5% aqueous solution of citric acid and a saturated aqueous solution of sodium hydrogencarbonate, which is then dried and further concentrated. The crude product is subjected to a silica gel column chromatography (ethyl acetate-methanol=9:1) to afford N,N-dimethyl 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2carboxamide (2.1 g) as colorless crystals, m.p. 146-147° C.

reactant | 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2-carboxylic acid | 3.0 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)O | C20H28N2O8
reactant | N-hydroxysuccinimide | 1.2 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexyl carbodiimide | 2.6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylamine hydrochloride | 8.0 g | Cl.CNC
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | triethylamine | 10.0g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | N,N-dimethyl 1-tert-butoxycarbonyl-4-(3,4,5-trimethoxybenzoyl)piperazine-2carboxamide | 2.1 g | CN(C(=O)C1N(CCN(C1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C(=O)OC(C)(C)C)C | C22H33N3O7
